US03969463
Ethyl 6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylate (10 g., 0.0347 mole) is dissolved in methanol (200 ml.) containing 25 ml. of 97 percent hydrazine. The mixture is warmed to accelerate solution. The solution is stirred at room temperature, and solid begins to separate immediately. The solid is separated by filtration, washed with methanol and recrystallized from aqueous ethanol to provide 6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrazide, m.p. 236°-238° C.

reactant | Ethyl 6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylate | 0.0347 mole, 10 g | FC1=CC=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)OCC)C | C16H16FNO3
reactant | hydrazine | NN | H4N2
solvent | methanol | 200 ml | CO | CH4O
product | 6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrazide | FC1=CC=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)NN)C | C14H14FN3O2
